US08420816B2
(R)-3-methyl-1-(3-methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoyl)azetidine-3-carbonitrile
To an 8 mL scintillation vial equipped for stirring was added (R)-3-methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid (80 mg, 0.293 mmol). DMF (0.5 mL), 3-cyano-3-methylazetidine (85 mg, 0.439 mmol), HOBt (67.2 mg, 0.439 mmol), EDC (84 mg, 0.439 mmol) and N,N-dimethylpyridin-4-amine (53.6 mg, 0.439 mmol) were added and the solution was stirred at 25° C. for 4 h. The fractions were collected and lyophilized to afford the title compound as a white solid (31.5 mg, 30.6%). 1H NMR (400 MHz, DMSO-d6) δ 0.78 (dd, J=6.82, 3.28 Hz, 3 H) 0.96 (dd, J=8.59, 6.32 Hz, 3 H) 1.44-1.68 (m, 3 H) 2.26-2.44 (m, 1 H) 3.84 (dd, J=9.47, 5.18 Hz, 1 H) 3.99-4.14 (m, 1 H) 4.21 (dd, J=9.47, 5.68 Hz, 1 H) 4.34-4.65 (m, 1 H) 4.85 (dd, J=19.45, 5.56 Hz, 1 H) 4.96-5.11 (m, 2 H) 7.08 (d, J=5.05 Hz, 1 H) 7.86 (d, J=4.04 Hz, 1 H) 8.26 (dd, J=4.80, 3.28 Hz, 1 H) 12.22 (br. s., 1 H). [M+H] calc'd for C19H21N5O2, 352; found, 352.5.

reactant | (R)-3-methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid | 0.293 mmol, 80 mg | CC([C@H](C(=O)O)N1CC=2C=CN=C3C2C(C1=O)=CN3)C | C14H15N3O3
reactant | 3-cyano-3-methylazetidine | 0.439 mmol, 85 mg | C(#N)C1(CNC1)C | C5H8N2
reactant | HOBt | 0.439 mmol, 67.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.439 mmol, 84 mg
catalyst | N,N-dimethylpyridin-4-amine | 0.439 mmol, 53.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)-3-methyl-1-(3-methyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoyl)azetidine-3-carbonitrile | 31.5 mg, 30.6% | CC1(CN(C1)C([C@@H](C(C)C)N1CC=2C=CN=C3C2C(C1=O)=CN3)=O)C#N | C19H21N5O2
